Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7]>>[O:1]=[C:4]1[C:3]([H:8])([H:9])[C:2]([C:6]#[N:7])=[C:5]1[H:10],108.989531707026
[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][H:11])=[C:4]([O-:5])[C:6]#[O+:7])([H:8])([H:9])[H:10],36.37893756361871
[C:1]([C@@:4]([C:3]([C:2][H:10])([H:11])[H:12])([C:5]#[C:6][H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[C:6][H:14])[H:13])([H:7])([H:8])[H:9],27.464333089212914
[O:1]([C@@:2]1([H:8])[C@:3]([C:4](=[O:5])[H:9])([H:10])[C:6]1([H:11])[H:12])[H:7]>>[O:1]([C:2]1([H:8])[C:3]([H:9])([H:10])[C:4](=[O:5])[C:6]1([H:11])[H:12])[H:7],61.94573400852564
[N:3]#[N:4].[n:1]1[c:2]([H:8])[c:7]([H:10])[c:6]([H:9])[o:5]1>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],48.295156749422695
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6](=[C:7])[H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],3.263031497443002
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:12].[C:2](\[O:3][H:11])(=[C:4](/[C:5]([O:6][H:16])([H:14])[H:15])[H:13])[H:10],100.926099782916
[O:1]([C@@:2]([C:3]([C:5](=[C:4])[H:12])([H:10])[H:11])([C:6]#[C:7][H:13])[H:9])[H:8]>>[O:1]([C@@:2]([C:3]([C:4]#[C:5][H:12])([H:10])[H:11])([C:6]#[C:7][H:13])[H:9])[H:8],13.427849204129103
[C:1]([C:2]([O:3][H:11])=[C:6]=[C:7]([H:10])[H:15])([C:4]([O:5][H:14])([H:12])[H:13])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],90.67232253148562
[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C@:5]1([C:6]#[N:7])[H:16])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C:5]1=[C:6]=[N:7][H:16])([H:8])([H:9])[H:10],91.4446125521475
[H:8][H:10].[N:1](=[C:2]=[O:3])[H:7].[N:4](=[C:5]=[O:6])[H:9]>>[N:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:10])[H:9])([H:7])[H:8],42.7095819751256
[C:1]([C:2](/[C:3](=[N:4]\[O:5][H:12])[C:6]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:3]([C+:2]([H:10])[H:11])([N-:4][O:5][H:12])[C:6]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9],80.4067123173712
[C-:6]#[O+:7].[C:1]([O:2][C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([H:8])[H:13])([H:11])[H:12])([H:9])([H:10])[H:17]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],87.99676620854794
[N:1]([C-:2]=[O+:7][C:5][N:6]([H:10])[H:11])([H:8])[H:9].[N:3]#[N:4]>>[N:1]([c:2]1[n:3][n:4][c:5]([N:6]([H:10])[H:11])[o:7]1)([H:8])[H:9],25.339377440803105
[C:1]([C@@:2]([O:3][H:10])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[C:4]=[N:5][O:3][H:10])[H:9])([H:6])([H:7])[H:8],87.33954728608009
[C:1]([N:6]=[C:5]1[C:2]([H:10])([H:11])[O:3][C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],81.964986258525
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7]>>[C-:5]#[O+:6].[H:10][H:12].[O:1]([C:2]1([H:8])[C:3]([H:9])=[C:4]1[H:11])[H:7],74.73031201191179
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:5][O:7][H:21])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10].[C:6]([H:17])([H:18])([H:19])[H:20]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],18.5584970130553
[o:1]1[c:2]([H:6])[c:3]([H:7])[c:4]([H:8])[n:5]1>>[O+:1]#[C:2][C:3]([C:4](=[N-:5])[H:8])([H:6])[H:7],66.7611351940787
[O:1]=[C:2]1[C:3]([H:7])([H:8])[N:4]2[C:5]([H:9])([H:10])[C@@:6]12[H:11]>>[O:1]1[C@@:2]2([H:7])[C@:3]1([H:8])[N:4]1[C:5]([H:9])([H:10])[C@@:6]21[H:11],75.6254828038913
[C:1](/[C:2](=[C:3](\[O:4][H:12])[H:11])[H:10])([H:7])([H:8])[H:9].[C:5]([O:6][H:14])[H:13]>>[C:1]([C@@:2]1([H:10])[C@:3]([O:4][H:12])([H:11])[C@:5]1([O:6][H:14])[H:13])([H:7])([H:8])[H:9],4.083952794867095
[N:1]1([H:8])[C@@:2]23[C@:3]1([H:9])[C@:4]2([H:10])[C:5]([H:11])=[N:6][O:7]3>>[N:1](=[c:2]1/[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[n:6][o:7]1)\[H:8],14.79965884439271
[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]([N:7]=[C:6]=[C:4]=[N:5][H:14])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],91.81369656762051
[C:5]([C:6]#[N:7])([H:8])([H:12])[H:13].[N:1]#[C:2][H:9].[O:3]=[C:4]([H:10])[H:11]>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],53.60407086487549
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:4][C@:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:7]1)([H:8])([H:9])[H:10]>>[C:1](=[C:2]1[C:3]([H:12])([H:13])[O:4][C@:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:7]1)([H:8])[H:10].[H:9][H:11],99.4846880279038
